2157-04-30 09:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   on PSV overnight with hypoventilation, transitioned back to ACV
   minimal neurologic response overnight off sedation
                   Patient unable to provide history: Sedated
   Allergies:
   Sulfanilamide
   Unknown;
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2157-4-29**] 07:53 PM
   Vancomycin - [**2157-4-30**] 08:28 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-4-30**] 08:27 AM
   Other medications:
   vanc 1 g [**Hospital1 **]
   protonix
   carafate
   dilt 45 qid
   paroxetine
   simvastatin
   neo
   albuterol
   cefepime
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-4-30**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 114 (83 - 124) bpm
   BP: 136/70(92) {92/44(63) - 142/77(100)} mmHg
   RR: 9 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  1,484 mL
                                                                    462 mL
   PO:
             TF:
   IVF:
                                                                    424 mL
                                                                    402 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    410 mL
                                                                    340 mL
   Urine:
                                                                    360 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,074 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 338 (303 - 340) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 32 cmH2O
   Plateau: 32 cmH2O
   SpO2: 100%
   ABG: 7.32/57/116/32/1
   Ve: 6.8 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), Rub, irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   8.3 g/dL
   372 K/uL
   75 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.0 mEq/L
   37 mg/dL
   103 mEq/L
   140 mEq/L
   26.6 %
   15.4 K/uL
        [image002.jpg]
                             [**2157-4-30**]  04:54 AM
                             [**2157-4-30**]  05:06 AM
                             [**2157-4-30**]  05:59 AM
   WBC
   15.4
   Hct
   26.6
   Plt
   372
   Cr
   0.8
   TCO2
   39
   31
   Glucose
   75
   Other labs: PT / PTT / INR:16.5/33.5/1.5, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   1. Respiratory failure, multifactorial: severe restrictive physiology
   due to pleural plaques (asbestos hx), aspiration pna, mental status,
   pneumonia, possible pulmonary edema and respiratory/muscle weakness
    - will cont vanc/cef for aspiration pna
    - wean sedating medications after MRCP
   2. Mental status changes/bulbar muscle weakness:
     - pt with possible progressive neuromuscular weakness, with increased
   dysphagia, altered mental status of unclear etiology, neurology
   following
    - will continue sedation with propofol, fentanyl for pain control as
   needed, consider seroquel if significant agitation when off propofol
    - trial off propofol once he is more hemodynamically stable
   3. Tremor: pt with intermittent shaking, rigidity, appears most
   consistent with pain/discomfort from ett
    - neuro eval with little evidence for seizure activity
    - Fentanyl as needed for pain control (on propofol will turn off
   Fentanyl gtt and give boluses as needed)
   4. Cardiomyopathy: recent DES on asa/plavix, has evidence of posterior
   wall motion abnormalities with likely further stenosis, intervention
   deferred for now per cardiology
    - cont diltiazem for HR control to allow forward flow
    - would avoid vasoconstrictor pressors (ie vasopressin) for now
    - cont asa/plavix
    - holding systemic a/c as he may require further procedures
   5. Pneumonia: copious secretions during bronchoscopy iwth increased
   wbc, but afebrile, may reflect upper airway drainage, on top of poor
   pulmonary reserve (pleural plaques and chronic aspiration)
    - f/u sputum culture
    - cont vanc/cefepime
    - pulmonary toilet
   6. Pancreatic mass:
    - family now aware
    - incidental finding in setting of addl workup, mass of unclear
   significance
    - he will need mrcp but biopsy contra-indicated in setting of
   asa/plavix
    - will defer MRCP for now given overall hemodynamic instability
   7. Gastric ulcer:
    - f/u H pylori
    - cont ppi
    - f/u pathology
    - will need rx for hpylori
   8. Atrial flutter: s/p failed ablation/cardioversion
    - cont dilt for flutter
   9. Dysphagia, oral weakness:
    - cont tube feeds for now, may eventually need tpn
   10. CAD s/p stent:
    - asa/plavix/statin
    - holding systemic a/c for now
   11. FEN: tube feeds for now, consider TPN pending w/u additional
   studies
   ICU Care
   Nutrition:
   Tube feeds to restart either after MRCP or now if MRCP deferred
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2157-4-29**] 05:25 PM
   Arterial Line - [**2157-4-29**] 05:26 PM
   20 Gauge - [**2157-4-29**] 05:26 PM
   Prophylaxis:
   DVT: Boots(asa/pavix)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2157-05-01 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2157-4-30**] 08:30 AM
 EEG - At [**2157-4-30**] 12:20 PM
 PAN CULTURE - At [**2157-4-30**] 01:47 PM
   [**2157-4-30**]
   -Patient with diffuse shaking motions and facial grimace
   -EEG performed: (prelim) negative for seizure activity
   -MRCP not performed due to hemodynamic instability
   -TF started
   -Patient with Afib with RVR after morning suctioning; given fentanyl,
   ativan and eventually started on diltiazem gtt
   -Overnight heart rates decreased and patient weaned off diltiazem gtt
   -Per Dr. [**Last Name (STitle) **]: patient not on anticoagulation due to possible
   procedures, will continue to hold coumadin
   -Temp 100.6: pancultured
   Allergies:
   Sulfanilamide
   Unknown;
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2157-4-29**] 07:53 PM
   Vancomycin - [**2157-4-30**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-5-1**] 02:32 AM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-4-30**] 08:27 AM
   Lorazepam (Ativan) - [**2157-4-30**] 08:45 AM
   Diltiazem - [**2157-4-30**] 09:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-5-1**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.5
C (97.7
   HR: 63 (63 - 137) bpm
   BP: 98/46(64) {94/46(64) - 137/71(94)} mmHg
   RR: 14 (8 - 29) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
    CVP: 7 (7 - 9)mmHg
   Total In:
                                                                  2,906 mL
                                                                    640 mL
   PO:
   TF:
                                                                     32 mL
                                                                    142 mL
   IVF:
                                                                  2,534 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    330 mL
   Urine:
                                                                  1,140 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,766 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/41/153/29/1
   Ve: 6.2 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Gen: intubated, sedated cachectic male
   HEENT: PERRL, MM moist
   Neck: supple, no LAD
   Lungs: CTAB, no wheezes or crackles appreciated
   Heart: RRR, s1/s2 present, no murmurs
   Abd: +BS, soft, non-tender
   Ext: no LE edema
   Labs / Radiology
   303 K/uL
   8.3 g/dL
   116 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.2 mEq/L
   21 mg/dL
   102 mEq/L
   138 mEq/L
   26.1 %
   13.4 K/uL
        [image002.jpg]
                             [**2157-4-30**]  04:54 AM
                             [**2157-4-30**]  05:06 AM
                             [**2157-4-30**]  05:59 AM
                             [**2157-4-30**]  10:05 AM
                             [**2157-4-30**]  10:08 PM
                             [**2157-5-1**]  03:58 AM
                             [**2157-5-1**]  04:23 AM
   WBC
   15.4
   13.4
   Hct
   26.6
   26.1
   Plt
   372
   303
   Cr
   0.8
   0.7
   TCO2
   39
   31
   33
   26
   27
   Glucose
   75
   116
   Other labs: PT / PTT / INR:18.9/33.5/1.7, ALT / AST:30/35, Alk Phos / T
   Bili:74/0.5, Lactic Acid:1.1 mmol/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ATRIAL FLUTTER (AFLUTTER)
 .H/O PANCREATIC PSEUDOCYST
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   This is a 79 yo male with CAD, Afib/Aflutter, with two months of
   dysphagia and weight loss and found to have dilated proximal esophagus
   and pancreatic [**Hospital **] transferred to ICU after developing respiratory
   distress in setting of extubation post-general anaesthesia.
   .
   # Respiratory Arrest: Likely related to sedation in the setting of
   recent surgery. Oversedation supressing resp drive with poor compliance
   (due to fibrosis and n
   -- check neg inspiratory pressure
   -- avoid volume overload during periextubation period
   --light sedation with propofol while intubated
   --reassess for extubation after imaging
   .
   # HAP: Change cefepime/vancomycin
   --f/u BAL gram stain and cx
   --send sputum cx
   .
   #Pancreas Mass: Needs MRCP for better characterization. Will attempt to
   get this while intubated.
   --MRCP ordered
   .
   # Gastric Ulcer: Biopsy and H.Pylori pending.
   --treat for h.pylori (ask ID about regimen given current regimen)
   --PPI IV
   --follow Hct
   --type and crossed
   .
   # Afib/Aflutter: Being evaluated by outpt cards for ablation. He is
   already s/p 2 ablations. Currently on diltiazem for rate control. No
   anti-coagulation given bleeding risk from ulcers.
   --cont current diltiazem regimen; restart dilt gtt if needed
   .
   # Dysphagia/Oral Weakness: This was reason for pursuing PEG. Currently
   pt has NG in place.
   --consider TPN, have goals of care discussion with family and patient
   .
   # Neurologic decline: per neurology likely Multiple Systems Atrophy
   causing progressive decline in setting of malnutrition
   - follow up neurology recs regarding any needed imaging
   # Pulm Fibrosis: supportive care. unlikely steroid responsive
   .
   # CAD: Cont ASA, plavix, statin.
   ICU Care
   Nutrition: TF verify with nutrition that feeds are okay for celiac
   disease
   Fibersource HN (Full) - [**2157-4-30**] 08:46 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-4-29**] 05:25 PM
   Arterial Line - [**2157-4-29**] 05:26 PM
   20 Gauge - [**2157-4-30**] 06:04 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  ppi
   VAP:   mouth care
   Comments:
   Communication:  Comments:
   Code status:  FULL CODE
   Disposition: ICU

2157-05-01 09:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yr old with asbestos pleural plaques, cad with recent drug-eluting
   stent, aflutter s/p failred cardioversion and ablation
   Recent recurrent aspiration with MS changes, weakness, progressive sob
   x months
   Admitted for consideration of additional stenting
   Was being treated for presumed pna. Planned for PEG placement and went
   to OR but gastric ulcer seen on EGD. Following procedure
   extubated/reintubated (likely due to sedation) and sent to MICU.
   24 Hour Events:
   discontinued dilt gtt overnight
   Tm 100.6
   Remains hypotensive on pressors
   Allergies:
   Sulfanilamide
   Unknown;
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2157-4-29**] 07:53 PM
   Vancomycin - [**2157-4-30**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-5-1**] 08:43 AM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2157-4-30**] 09:52 AM
   Pantoprazole (Protonix) - [**2157-5-1**] 08:43 AM
   Other medications:
   vanc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-5-1**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 35.3
C (95.6
   HR: 72 (63 - 137) bpm
   BP: 120/56(80) {94/46(64) - 137/71(94)} mmHg
   RR: 14 (8 - 29) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   CVP: 7 (7 - 9)mmHg
   Total In:
                                                                  2,906 mL
                                                                  1,053 mL
   PO:
   TF:
                                                                     32 mL
                                                                    219 mL
   IVF:
                                                                  2,534 mL
                                                                    574 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    450 mL
   Urine:
                                                                  1,140 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,766 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/41/153/29/1
   Ve: 6.6 L/min
   PaO2 / FiO2: 383
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: PPP
   Respiratory / Chest: (Breath Sounds: Rhonchorous: anteriorly)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   8.3 g/dL
   303 K/uL
   116 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.2 mEq/L
   21 mg/dL
   102 mEq/L
   138 mEq/L
   26.1 %
   13.4 K/uL
        [image002.jpg]
                             [**2157-4-30**]  04:54 AM
                             [**2157-4-30**]  05:06 AM
                             [**2157-4-30**]  05:59 AM
                             [**2157-4-30**]  10:05 AM
                             [**2157-4-30**]  10:08 PM
                             [**2157-5-1**]  03:58 AM
                             [**2157-5-1**]  04:23 AM
   WBC
   15.4
   13.4
   Hct
   26.6
   26.1
   Plt
   372
   303
   Cr
   0.8
   0.7
   TCO2
   39
   31
   33
   26
   27
   Glucose
   75
   116
   Other labs: PT / PTT / INR:18.9/33.5/1.7, ALT / AST:30/35, Alk Phos / T
   Bili:74/0.5, Lactic Acid:1.1 mmol/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.5 mg/dL
   Microbiology: Sputum gram stain with 1+ gram + rods
   CT chest reviewed
 no obvious fibrosis, bilat pleural plaques,
   patulous large esophagus
   CXR reviewed
 [**4-20**] vs today no change, doubt significant pna
   Assessment and Plan
   79 yo M CAD 3vd, recent DES, Aflutter s/p failed ablation x 2,
   pulmonary fibrosis/asbestosis,aspiration, presents with rapid overall
   decline, now with respiratory failure after planned peg.
   1. Respiratory failure:
    - fibrosis/restrictive lung disease + aspiration pna + altered mental
   status + ? neuromuscular weakness
    - R of 10, C 20, will check respiratory muscle forces
    - after studies, will lighten sedation to assess ability to breath.
   Agree with Propofol. Tolerating PSV
    - cont vanc/zosyn x 7 days for aspiration pna, and f/u culture data
    - possible that FTT is due to recurrent aspiration but malignancy,
   cardiac cachexia, neurodegen disease, non-compliance with celiac diet
   also to be considered
   2. pancreatic mass: MRCP today, f/u GI
   3. Aflutter: HR currently well-controlled, holding dilt gtt
   4. HoTN: cont neo to maintain map > 65, UOP > 0.5mg/kg/hr
   5. Dysphagia: NPO, cont tube feeds
   6. Gastric ulcers: f/u bx results, cont ppi, holding peg placement for
   now
   7. CAD: asa, plavix
   8. ? progressive neurodegenerative disorder:
    - f/u with neuro
    - tsh
    - B12, folate
    - ? EMGs
   9. Celiac disease: tbd with nutrition regarding celiac diet
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2157-4-30**] 08:46 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2157-4-29**] 05:25 PM
   Arterial Line - [**2157-4-29**] 05:26 PM
   20 Gauge - [**2157-4-30**] 06:04 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2157-05-02 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -propofol stopped at 10:30 a.m. yesterday, patient minimally responsive
   and able to follow commands with all 4 extremities
   -MRI brain and MRCP performed
   -Neuro rec LP- able to obtain an opening pressure of 18 and 1/2 cc of
   fluid that could only be sent for cell count and diff, unable to obtain
   any more fluid, ordered IR guided LP
   -[**First Name8 (NamePattern2) **] [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] prior discussion w/ neurology had suggested possible
   diagnosis of CJD- the patient would need an MRI w/ DWI to help aid in
   diagnosis
   Allergies:
   Sulfanilamide
   Unknown;
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2157-4-29**] 07:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-5-1**] 04:27 PM
   Vancomycin - [**2157-5-1**] 08:20 PM
   Piperacillin - [**2157-5-2**] 12:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-5-1**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-5-2**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 76 (70 - 99) bpm
   BP: 98/45(63) {92/45(63) - 147/73(98)} mmHg
   RR: 24 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  2,163 mL
                                                                    185 mL
   PO:
   TF:
                                                                    265 mL
   IVF:
                                                                  1,458 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    320 mL
   Urine:
                                                                    885 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,278 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 374 (354 - 374) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 18 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/60/134/31/5
   Ve: 6.7 L/min
   PaO2 / FiO2: 335
   Physical Examination
   Gen: Slightly sedated but able to squeeze hands, wiggle toes, and nod
   appropriately to command
   Lungs: +dry crackles bilaterally
   CV: SEM loudest at RUSB
   Abd: soft, NT
   Ext: edema in hands, feet
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   7.8 g/dL
   89 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.0 mEq/L
   16 mg/dL
   101 mEq/L
   137 mEq/L
   24.4 %
   11.4 K/uL
        [image002.jpg]
                             [**2157-4-30**]  05:59 AM
                             [**2157-4-30**]  10:05 AM
                             [**2157-4-30**]  10:08 PM
                             [**2157-5-1**]  03:58 AM
                             [**2157-5-1**]  04:23 AM
                             [**2157-5-1**]  01:57 PM
                             [**2157-5-1**]  06:40 PM
                             [**2157-5-2**]  02:22 AM
                             [**2157-5-2**]  05:54 AM
                             [**2157-5-2**]  06:06 AM
   WBC
   13.4
   11.4
   Hct
   26.1
   24.4
   Plt
   303
   259
   Cr
   0.7
   0.8
   TCO2
   31
   33
   26
   27
   33
   34
   34
   35
   Glucose
   116
   89
   Other labs: PT / PTT / INR:18.9/33.5/1.7, ALT / AST:30/35, Alk Phos / T
   Bili:74/0.5, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FLUTTER (AFLUTTER)
 .H/O PANCREATIC PSEUDOCYST
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   This is a 79 yo male with CAD, Afib/Aflutter, with two months of
   dysphagia and weight loss and found to have dilated proximal esophagus
   and pancreatic [**Hospital **] transferred to ICU after developing respiratory
   distress in setting of extubation post-general anaesthesia.
   # Respiratory Failure: related to mental status depression. Currently
   of propofol and slow to wake up. Gas improved, patient has been doing
   well on SBT
   - trial extubation today if patient not going for ERCP/further
   procedures
   -f/u MRI brain, in the setting of somnolence and myoclonic jerks
   possible anoxic brain injury from intermittent low BPs around the time
   of surgery
   -reassess mental status off sedation
   -f/u neuro recs
   # HAP:
   --continue vanc / zosyn
   --f/u BAL gram stain and cx, f/u sputum cx
   #Pancreas Mass:
   --talk to GI regarding recs for further studies for eval and also
   nutrition for failed PEG tube
   --talk to family regarding whether want to pursue diagnosis, in which
   case can consider ERCP consult for tissue diagnosis
   -- f/u MRI read
   # Gastric Ulcer:
   --f/u Biopsy and H.Pylori pending.
   --f/u MRCP results
   - [**Hospital1 **] PPI
   # Afib/Aflutter: Being evaluated by outpt cards for ablation. He is
   already s/p 2 ablations.
   -continue dilt at 45mg po QID
   # Dysphagia/Oral Weakness: This was reason for pursuing PEG. Currently
   pt has NG in place.
   -if extubated attempt to leave NG tube in place
   # Neurologic decline: per neurology likely Multiple Systems Atrophy
   causing progressive decline in setting of malnutrition
   -also concern for possible CJD, f/u MRI and neuro recs regarding this
   # Pulm Fibrosis: supportive care. unlikely steroid responsive
   # CAD: Cont ASA, plavix, statin for recent stent
   -- talk to cardiology regarding aspirin/plavix in case of ERCP
   ICU Care
   Nutrition: Will need to talk to GI/Nutrition regarding best nutrition
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-4-29**] 05:25 PM
   Arterial Line - [**2157-4-29**] 05:26 PM
   20 Gauge - [**2157-4-30**] 06:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code, will need to readdress general goals of care
   Disposition: ICU for now

2157-05-02 11:47:00 Physician Attending Progress Note
Chief Complaint:  Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: aspiration pneumonia, atrial flutter
   24 Hour Events:
   propofol held yesterday am, with minimal improvement in mental status
   LP attempted
   MRI head and MRCP performed
   Allergies:
   Sulfanilamide
   Unknown;
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2157-4-29**] 07:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-5-1**] 04:27 PM
   Vancomycin - [**2157-5-1**] 08:20 PM
   Piperacillin - [**2157-5-2**] 08:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-5-1**] 08:10 PM
   Other medications:
   vanc
   pantoprazole
   carafate
   paroxetine 20
   lipitor
   albuterol
   propofol
   dilt
   asa 325
   plavix 75
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-5-2**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 74 (70 - 100) bpm
   BP: 123/56(79) {92/45(63) - 147/73(98)} mmHg
   RR: 17 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  2,163 mL
                                                                    326 mL
   PO:
             TF:
                                                                    265 mL
   IVF:
                                                                  1,458 mL
                                                                    326 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    480 mL
   Urine:
                                                                    885 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,278 mL
                                                                   -154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 257 (257 - 374) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 18 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/56/148/31/2
   Ve: 5.6 L/min
   PaO2 / FiO2: 370
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   259 K/uL
   89 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.0 mEq/L
   16 mg/dL
   101 mEq/L
   137 mEq/L
   24.4 %
   11.4 K/uL
        [image002.jpg]
                             [**2157-4-30**]  10:05 AM
                             [**2157-4-30**]  10:08 PM
                             [**2157-5-1**]  03:58 AM
                             [**2157-5-1**]  04:23 AM
                             [**2157-5-1**]  01:57 PM
                             [**2157-5-1**]  06:40 PM
                             [**2157-5-2**]  02:22 AM
                             [**2157-5-2**]  05:54 AM
                             [**2157-5-2**]  06:06 AM
                             [**2157-5-2**]  09:03 AM
   WBC
   13.4
   11.4
   Hct
   26.1
   24.4
   Plt
   303
   259
   Cr
   0.7
   0.8
   TCO2
   33
   26
   27
   33
   34
   34
   35
   31
   Glucose
   116
   89
   Other labs: PT / PTT / INR:18.9/33.5/1.7, ALT / AST:30/35, Alk Phos / T
   Bili:74/0.5, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   79 yo M CAD s/p CABG, PCI with DES, asbestosis with pleural plaques,
   recurrent aspiration, transferred to the ICU aftre attempted PEG
   placement
   1. Respiratory failure:
   multifactorial, on a background of fibrotic lung disease/asbestosis and
   heart failure, he has recurrent aspiration and likely aspiration pna,
   now hypercarbic respiratory failure [**3-1**] intra-operative medications
    - will cont to aim tbb negative
    - cont abx
    - holding sedation and patient is waking up
    - will extubate when somnolence has improved
   Will need to speak with all consultants regarding the timing / need for
   further procedures
   2. Mental status changes: difficult  to assess after sedating
   medications, but patient appears to be waking up this morning, MRI
   obtained overnight with no obvious abnormalities
    - will cont hold sedation and reassess after extubation
   3. Pancreatic mass/gastric ulcers:
    - await pathology results from gastric biopsy
    - will touch base with GI/ERCP about possibility of biopsy; d/w
   cardiology regarding timing on asa/plavix
   4. neurodegenerative process:
    - will f/u with neurology regarding overall work-up
    - will attempt NIF on PSV
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2157-4-29**] 05:25 PM
   Arterial Line - [**2157-4-29**] 05:26 PM
   20 Gauge - [**2157-4-30**] 06:04 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2157-05-03 07:34:00 Physician Resident Progress Note
Chief Complaint: PNA
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2157-5-2**] 01:28 PM
 ARTERIAL LINE - STOP [**2157-5-2**] 02:30 PM
   lots of chest PT for secretions
   d/c LP by IR per neuro
   MRCP showed no pancreatic mass, only dilated duct, MRI brain with
   nothing acute to explain decline
   extubated, GI to do PEG later on in admission
   Allergies:
   Sulfanilamide
   Unknown;
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2157-5-1**] 04:27 PM
   Piperacillin - [**2157-5-2**] 04:14 PM
   Vancomycin - [**2157-5-2**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-5-2**] 08:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-5-3**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 77 (74 - 115) bpm
   BP: 133/54(72) {114/42(60) - 172/99(107)} mmHg
   RR: 20 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
             Total In:
                                                                  1,495 mL
                                                                    311 mL
   PO:
             TF:
                                                                    232 mL
                                                                    136 mL
   IVF:
                                                                    763 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,320 mL
                                                                    800 mL
   Urine:
                                                                  1,320 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    175 mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 257 (257 - 257) mL
   PS : 0 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.33/56/148/33/2
   NIF: -31 cmH2O
   Ve: 5.6 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   284 K/uL
   8.8 g/dL
   135 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.6 mEq/L
   13 mg/dL
   97 mEq/L
   137 mEq/L
   27.4 %
   14.1 K/uL
        [image002.jpg]
                             [**2157-4-30**]  10:08 PM
                             [**2157-5-1**]  03:58 AM
                             [**2157-5-1**]  04:23 AM
                             [**2157-5-1**]  01:57 PM
                             [**2157-5-1**]  06:40 PM
                             [**2157-5-2**]  02:22 AM
                             [**2157-5-2**]  05:54 AM
                             [**2157-5-2**]  06:06 AM
                             [**2157-5-2**]  09:03 AM
                             [**2157-5-3**]  02:50 AM
   WBC
   13.4
   11.4
   14.1
   Hct
   26.1
   24.4
   27.4
   Plt
   [**Telephone/Fax (3) 14445**]
   Cr
   0.7
   0.8
   0.7
   TCO2
   26
   27
   33
   34
   34
   35
   31
   Glucose
   116
   89
   135
   Other labs: PT / PTT / INR:18.9/33.5/1.7, ALT / AST:30/35, Alk Phos / T
   Bili:74/0.5, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FLUTTER (AFLUTTER)
 .H/O PANCREATIC PSEUDOCYST
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   This is a 79 yo male with CAD, Afib/Aflutter, with two months of
   dysphagia and weight loss and found to have dilated proximal esophagus
   and pancreatic [**Hospital **] transferred to ICU after developing respiratory
   distress in setting of extubation post-general anaesthesia.
   # Respiratory Failure: related to mental status depression. Currently
   of propofol and slow to wake up. Gas improved, patient has been doing
   well on SBT
   - trial extubation today if patient not going for ERCP/further
   procedures
   -f/u MRI brain, in the setting of somnolence and myoclonic jerks
   possible anoxic brain injury from intermittent low BPs around the time
   of surgery
   -reassess mental status off sedation
   -f/u neuro recs
   # HAP:
   --continue vanc / zosyn
   --f/u BAL gram stain and cx, f/u sputum cx
   #Pancreas Mass:
   --talk to GI regarding recs for further studies for eval and also
   nutrition for failed PEG tube
   --talk to family regarding whether want to pursue diagnosis, in which
   case can consider ERCP consult for tissue diagnosis
   -- f/u MRI read
   # Gastric Ulcer:
   --f/u Biopsy and H.Pylori pending.
   --f/u MRCP results
   - [**Hospital1 **] PPI
   # Afib/Aflutter: Being evaluated by outpt cards for ablation. He is
   already s/p 2 ablations.
   -continue dilt at 45mg po QID
   # Dysphagia/Oral Weakness: This was reason for pursuing PEG. Currently
   pt has NG in place.
   -if extubated attempt to leave NG tube in place
   # Neurologic decline: per neurology likely Multiple Systems Atrophy
   causing progressive decline in setting of malnutrition
   -also concern for possible CJD, f/u MRI and neuro recs regarding this
   # Pulm Fibrosis: supportive care. unlikely steroid responsive
   # CAD: Cont ASA, plavix, statin for recent stent
   -- talk to cardiology regarding aspirin/plavix in case of ERCP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-4-29**] 05:25 PM
   20 Gauge - [**2157-4-30**] 06:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2157-05-03 10:31:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: aspiration pneumonia, gastric ulcer, asbestosis
   24 Hour Events:
   Extubated successfully
   improving mental status, voice still weak
   Allergies:
   Sulfanilamide
   Unknown;
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2157-5-2**] 04:14 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-5-3**] 08:04 AM
   Vancomycin - [**2157-5-3**] 09:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-5-2**] 08:34 PM
   Other medications:
   pantoprazole 40
   carafate
   paroxetine
   lipitor
   albuterol
   zosyn 2.5 q 8
   dilt 40 qid
   asa 325
   plavix 75
   vanc 750 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-5-3**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.5
C (95.9
   HR: 90 (74 - 115) bpm
   BP: 116/64(76) {114/42(60) - 172/99(107)} mmHg
   RR: 21 (12 - 30) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
             Total In:
                                                                  1,495 mL
                                                                    778 mL
   PO:
             TF:
                                                                    232 mL
                                                                    215 mL
   IVF:
                                                                    763 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  1,320 mL
                                                                    900 mL
   Urine:
                                                                  1,320 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    175 mL
                                                                   -122 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///33/
   NIF: -31 cmH2O
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : exp wheeze LLL,
   Rhonchorous: L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, moving all extremeties
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   8.8 g/dL
   284 K/uL
   135 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.6 mEq/L
   13 mg/dL
   97 mEq/L
   137 mEq/L
   27.4 %
   14.1 K/uL
        [image002.jpg]
                             [**2157-4-30**]  10:08 PM
                             [**2157-5-1**]  03:58 AM
                             [**2157-5-1**]  04:23 AM
                             [**2157-5-1**]  01:57 PM
                             [**2157-5-1**]  06:40 PM
                             [**2157-5-2**]  02:22 AM
                             [**2157-5-2**]  05:54 AM
                             [**2157-5-2**]  06:06 AM
                             [**2157-5-2**]  09:03 AM
                             [**2157-5-3**]  02:50 AM
   WBC
   13.4
   11.4
   14.1
   Hct
   26.1
   24.4
   27.4
   Plt
   [**Telephone/Fax (3) 14445**]
   Cr
   0.7
   0.8
   0.7
   TCO2
   26
   27
   33
   34
   34
   35
   31
   Glucose
   116
   89
   135
   Other labs: PT / PTT / INR:18.9/33.5/1.7, ALT / AST:30/35, Alk Phos / T
   Bili:74/0.5, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   79 yo M CAD, Aflutter, asbestosis, aspiration, now doing well status
   post extubation
   1. Respiratory failure: likely combination baseline asbestosis,
   aspiration, with superimposed aspiration pneumonia and then unable to
   compensate for sedating medications
    - cont nebs, chest PT, suction as needed
    - day [**5-7**] vanc/zosyn, will d/c vanc and cont zosyn x 10d
    - he will be chronic aspirator, he may benefit from tracheostomy
   placement/ nocturnal ventilation given his tenuous status, if this is
   in line with patient and family goals of care.  will continue to
   discuss as neurologic w/u progresses
   2. Neurologic decline:
    - may be related to chronic aspiration, neurology following
    - will avoid sedating medications as possible
   3. CAD: cont asa/plavix/statin, s/p DES
   4. Aspiration: NPO, speech language pathology to follow
   5. HoTN: improved, off all pressors
   6. Pancreatic mass: unclear significance, not evident on ERCP, GI
   following
   7. FEN: tube feeds, f/u gastric biopsy results, if negative would
   consider PEG eventually
   8. Gastric ulcers: ppi, sucralfate, f/u biopsy results
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2157-5-2**] 03:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-4-29**] 05:25 PM
   20 Gauge - [**2157-4-30**] 06:04 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , family
   updatedICU consent signed Comments:
   Code status:  full
   Disposition : Dr [**Last Name (STitle) **]
s service
   Total time spent: 35 mins

2157-05-04 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2157-5-4**] 06:17 AM
   - Patient's mental status slightly improved in AM
   - Neuro asked to re-evaluate, but no formal note in chart yet
   - Vancomycin discontinued
   - PM Hct was stable (24.4 -> 27.4 -> 27.7)
   - Gastric biopsy showing ulceration with regeneration and changes c/w
   chronic gastritis
   - Patient thought to be stable for callout to cardiology floor, but no
   beds and during evening, patient with intermittent desaturations,
   excessive secretions, more lethargic, then ABG checked at 4:30am showed
   7.26/82/52. Patient placed on BIPAP, put back on IV vancomycin. Family
   called regarding decline in respiratory status, Dr. [**Last Name (STitle) **] from
   cardiology also aware and in discussion with team and family, and plan
   for family meeting at 10am today ([**5-4**]) to discuss goals of care/long
   term prognosis.
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfanilamide
   Unknown;
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2157-5-2**] 04:14 PM
   Vancomycin - [**2157-5-3**] 09:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-5-4**] 12:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-5-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-5-4**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.2
C (95.4
   HR: 91 (73 - 101) bpm
   BP: 135/105(113) {114/41(65) - 158/105(113)} mmHg
   RR: 33 (21 - 34) insp/min
   SpO2: 90%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
             Total In:
                                                                  1,673 mL
                                                                    442 mL
   PO:
             TF:
                                                                    833 mL
                                                                    212 mL
   IVF:
                                                                    560 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    205 mL
   Urine:
                                                                  1,500 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    173 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 196 (196 - 196) mL
   PS : 10 cmH2O
   RR (Spontaneous): 46
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 90%
   ABG: 7.26/81.[**Numeric Identifier 508**]/52/37/6
   Ve: 3.5 L/min
   PaO2 / FiO2: 52
   Physical Examination
   General: Elderly man with BIPAP mask in place
   Neck: RIJ in place
   Pulm: Coughs occasionally, decreased BS at  L base
   CV: Irregular S1 S2 soft systolic murmur at apex
   Abd: Soft nontender +bowel sounds
   Extrem: Warm minimal edema
   Neuro: Follows commands to open eyes, squeeze hands and wiggle toes
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   296 K/uL
   8.6 g/dL
   176 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.9 mEq/L
   13 mg/dL
   98 mEq/L
   139 mEq/L
   27.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2157-5-1**]  01:57 PM
                             [**2157-5-1**]  06:40 PM
                             [**2157-5-2**]  02:22 AM
                             [**2157-5-2**]  05:54 AM
                             [**2157-5-2**]  06:06 AM
                             [**2157-5-2**]  09:03 AM
                             [**2157-5-3**]  02:50 AM
                             [**2157-5-3**]  05:57 PM
                             [**2157-5-4**]  03:24 AM
                             [**2157-5-4**]  04:41 AM
   WBC
   11.4
   14.1
   14.7
   Hct
   24.4
   27.4
   27.7
   27.6
   Plt
   259
   284
   296
   Cr
   0.8
   0.7
   0.7
   TCO2
   33
   34
   34
   35
   31
   39
   Glucose
   89
   135
   176
   Other labs: PT / PTT / INR:18.9/33.5/1.7, ALT / AST:30/35, Alk Phos / T
   Bili:74/0.5, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FLUTTER (AFLUTTER)
 .H/O PANCREATIC PSEUDOCYST
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   This is a 79 yo male with CAD, Afib/Aflutter, with two months of
   dysphagia and weight loss and found to have dilated proximal esophagus
   and pancreatic [**Hospital **] transferred to ICU after developing respiratory
   distress in setting of extubation post-general anaesthesia.
   # Hypoxic hypercarbic respiratory failure- likely component of HAP and
   mucus plugging given inability to clear secretions. CXR looks like an
   acute aspiration event on the left lung. There is likely another
   neurological disorder which is undiagnosed which is also contributing
   to his current clinical picture. Patient currently somnolent on BIPAP.
   Family is aware and are coming in for a family discussion regarding
   whether intubation will be pursued. Patient is critically ill. Dr.
   [**Last Name (STitle) **] who has been involved will also be present at this meeting.
   - emergent goals of care to be established regarding intubation and
   subsequent course, this will occur at 10 AM
   - vanco stopped yesterday but restarted given acute decompensation, no
   staph isolated from BAL
   - Continue abx currently
   - F/u pending BAL results
   - temporize with BIPAP for now
   # Delirium
   Likely related to meds, infection, ICU stay
   - Minimize sedating meds, lines/tubes as possible
   - Reorient
   #Pancreas Mass:
   None seen on MRCP fortunately.
   - GI recs appreciated
   # Gastric Ulcer:
   - f/u Biopsy and H.Pylori pending.
   - [**Hospital1 **] PPI
   # Afib/Aflutter: Being evaluated by outpt cards for ablation. He is
   already s/p 2 ablations.
   -continue dilt at 45mg po QID
   # Dysphagia/Oral Weakness: This was reason for pursuing PEG. Currently
   pt has NG in place and getting feeds
   # Neurologic decline: per neurology likely Multiple Systems Atrophy
   causing progressive decline in setting of malnutrition
   -also concern for possible CJD, f/u MRI and neuro recs regarding this
   - high suspicion for undergoing neuromuscular disorder
   # CAD: Cont ASA, plavix, statin for recent stent
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-4-29**] 05:25 PM
   20 Gauge - [**2157-4-30**] 06:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI [**Hospital1 7**]
   Communication:  Comments:
   Code status: Full code, family meeting at 10AM
   Disposition:pending discussion of goals of care

2157-05-04 09:00:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: aspiration pneumonia, sepsis
   24 Hour Events:
   During the day, the patient's mental status gradually improved to the
   point that he was minimally interactive with family, opening eyes to
   command.
   Overnight, the patient developed progressive respiratory compromise.
   He was noted to have oral secretions that he was not able to protect
   from his lower airway.  SaO2 low-90s.  ABG 7/26/82/52.  Family made
   aware regarding patients decline.  Family unclear regarding if they
   would want patient to be reintubated if it were clearly not going to be
   a reversible process.  Patient with minimal response on bipap.
   Allergies:
   Sulfanilamide
   Unknown;
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2157-5-2**] 04:14 PM
   Vancomycin - [**2157-5-3**] 09:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2157-5-4**] 12:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-5-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-5-4**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.2
C (95.4
   HR: 94 (73 - 101) bpm
   BP: 148/55(79) {114/41(65) - 158/105(113)} mmHg
   RR: 29 (21 - 34) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
             Total In:
                                                                  1,673 mL
                                                                    458 mL
   PO:
             TF:
                                                                    833 mL
                                                                    212 mL
   IVF:
                                                                    560 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    205 mL
   Urine:
                                                                  1,500 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    173 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 196 (196 - 196) mL
   PS : 10 cmH2O
   RR (Spontaneous): 46
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.26/81.[**Numeric Identifier 508**]/52/37/6
   Ve: 3.5 L/min
   PaO2 / FiO2: 74
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, bipap in place
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: left upper lobe,
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   8.6 g/dL
   296 K/uL
   176 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.9 mEq/L
   13 mg/dL
   98 mEq/L
   139 mEq/L
   27.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2157-5-1**]  01:57 PM
                             [**2157-5-1**]  06:40 PM
                             [**2157-5-2**]  02:22 AM
                             [**2157-5-2**]  05:54 AM
                             [**2157-5-2**]  06:06 AM
                             [**2157-5-2**]  09:03 AM
                             [**2157-5-3**]  02:50 AM
                             [**2157-5-3**]  05:57 PM
                             [**2157-5-4**]  03:24 AM
                             [**2157-5-4**]  04:41 AM
   WBC
   11.4
   14.1
   14.7
   Hct
   24.4
   27.4
   27.7
   27.6
   Plt
   259
   284
   296
   Cr
   0.8
   0.7
   0.7
   TCO2
   33
   34
   34
   35
   31
   39
   Glucose
   89
   135
   176
   Other labs: PT / PTT / INR:18.9/33.5/1.7, ALT / AST:30/35, Alk Phos / T
   Bili:74/0.5, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Imaging: CXR: bilateral pleural plaques, NGtube in place, Increased
   opacity LUL likely consistent with mucus plugging
   Assessment and Plan
   79 yo M CAD s/p DES, pulmonary asbestosis, dilated esophagus,
   aspiration, now with worsening respiratory distress and overall
   functional decline
   1. Goals of care: family meeting today to discuss further goals of
   care: continued medical work-up and management would require trach
   placement but would likely not reveal a reversible process, versus
   transitioning to comfort measures.  Further plan to be determined based
   on outcome of this meeting.  Will discuss with neuro service if there
   are any further studies such as a mestinon study that could potentially
   reveal a reversible neurologic process.  In the meantime, will continue
   supportive care, including medical management of atrial fibrillation.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2157-4-29**] 05:25 PM
   20 Gauge - [**2157-4-30**] 06:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: family meeting this morning
   Code status: Full code, likely CMO if family not wishing for
   reintubation
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill